US06919331B2
To a cooled (0° C.) solution of [2-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (146 mg, 0.42 mmol) in DCM (5 mL) was added thionyl chloride (46 μL, 0.63 mmol). The solution was stirred at 0° C. for 15 min. and concentrated in vacuo to give [2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester; HCl salt (176 mg, 100%) as a white solid, which was used without further purification.

reactant | [2-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 0.42 mmol, 146 mg | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CO)CCC(C)C)C=C1)=O | C19H29N3O3
reactant | thionyl chloride | 0.63 mmol, 46 μL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | [2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CCl)CCC(C)C)C=C1)=O | C19H28ClN3O2
